US04028344
Preparation of 2,2'-Azobis(2-isothiocyanato-4-methylpentane)
To a stirred solution of 19.2 grams (0.22 moles) of sodium thiocyanate in 120 ml of 75% aqueous isopropanol in a 250 ml erlenmeyer flask was added 26.7 grams (0.1 mole) of 2,2'-azobis(2-chloro-4-methylpentane) (from Example XXIXA) over 40 minutes while holding the temperature below 20° C. with a water bath. After the addition was complete the reaction mixture was stirred an additional 60 minutes at room temperature, poured into 300 ml water and extracted with pentane. The pentane extract was washed with water, 10% NaHCO3 solution, water, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure to leave a yellow semi-solid. The semi-solid was slurried in cold pentane and filtered. The filter cake was dried and weighed 8.0 grams (25% crude yield). This material was the undesired 2,2'-azobis(2-thiocyanato-4-methylpentane) and had a sharp band at 2170 cm-1 in its infrared spectrum. The pentane filtrate was stripped under reduced pressure to leave 11.0 grams (34% crude yield) of a yellow liquid. The infrared spectrum of this liquid had a strong broad band at 2000-2130 cm-1 in its infrared spectrum which is indicative of the isothiocyanate isomer.

reactant | sodium thiocyanate | 0.22 moles, 19.2 grams | [S-]C#N.[Na+]
reactant | 2,2'-azobis(2-chloro-4-methylpentane) | 0.1 mole, 26.7 grams | N(=NC(C)(CC(C)C)Cl)C(C)(CC(C)C)Cl | C12H24Cl2N2
reactant | water | 300 ml | O | H2O
reactant | isothiocyanate | [N-]=C=S
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
solvent | pentane | CCCCC | C5H12
product | 2,2'-Azobis(2-isothiocyanato-4-methylpentane) | N(=NC(C)(CC(C)C)N=C=S)C(C)(CC(C)C)N=C=S | C14H24N4S2
